US08809532B2
6-bromo-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole
A mixture of (2-bromophenyl)hydrazine hydrochloride (2.24 g, 10.0 mmol; Aldrich) and tent-butyl 4-oxopiperidine-1-carboxylate (1.99 g, 10.0 mmol; Aldrich) was combined with a solution of HCl in acetic acid (1.0 M, 30 mL; Aldrich) in a sealed tube and stirred at 100° C. for 18 hours. The reaction mixture was concentrated under vacuum. The residue was partitioned between NaOH (1.0 M, 200 mL) and CH2Cl2 (3×200 mL). The combined organic extracts were dried (sodium sulfate) and concentrated under vacuum. The residue was purified by reverse-phase HPLC [Waters XBridge™ RP18 column, 5 μm, 50×100 mm, flow rate 100 mL/minute, 50-80% gradient of methanol in buffer (0.1 M aqueous ammonium bicarbonate, adjusted to pH 10 with ammonium hydroxide)] to afford the title compound: 1H NMR (300 MHz, methanol-d4) δ ppm 2.86-2.94 (m, 2H), 3.24 (t, J=5.9 Hz, 2H), 4.04 (t, J=1.5 Hz, 2H), 6.89 (t, J=7.8 Hz, 1H), 7.21 (dd, J=7.6, 0.8 Hz, 1H), 7.33 (dd, J=8.0, 0.8 Hz, 1H); MS (APCI) m/z 292/294 (M+CH3CN+H)+.

reactant | (2-bromophenyl)hydrazine hydrochloride | 10.0 mmol, 2.24 g | Cl.BrC1=C(C=CC=C1)NN
reactant | butyl 4-oxopiperidine-1-carboxylate | 10.0 mmol, 1.99 g | O=C1CCN(CC1)C(=O)OCCCC | C10H17NO3
reactant | HCl | Cl | ClH
solvent | acetic acid | 1.0 M, 30 mL | C(C)(=O)O | C2H4O2
product | 6-bromo-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | BrC1=CC=CC=2C3=C(NC12)CCNC3 | C11H11BrN2
